US06680313B2
b) 4-Nitrobenzyl (1S,5R,6S)-2-[7-((2R)-3-azido-2-hydroxypropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate
4-Nitrobenzyl (1S,5R,6S)-2-[7-((2R)-3-azido-2-triethylsilyloxypropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate (560 mg) was dissolved in 10 ml of THF and 10 ml of water. The solution was adjusted to pH 2.5 by the addition of 1 N hydrochloric acid. The mixture was stirred at room temperature for 30 min, and was then adjusted to pH 7.0 by the addition of an aqueous sodium hydrogencarbonate solution, followed by extraction with ethyl acetate twice. The organic layers were combined, were washed with brine, and were dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1) to prepare 455 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-((2R)-3-azido-2-hydroxypropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 4-Nitrobenzyl (1S,5R,6S)-2-[7-((2R)-3-azido-2-triethylsilyloxypropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 560 mg | N(=[N+]=[N-])C[C@H](CSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)O[Si](CC)(CC)CC | C31H39N7O7S2Si
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 4-Nitrobenzyl (1S,5R,6S)-2-[7-((2R)-3-azido-2-hydroxypropyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | N(=[N+]=[N-])C[C@H](CSC=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C)O | C25H25N7O7S2
